US07538931B2
Hrc=2,2′-Methylenebis(1,3-benzothiazole)
To a flask were added 50 g polyphosphoric acid. After heating to 70 C under nitrogen, a mixture of 3.13 g 2-aminothiophenol and 1.3 g malonic acid was added. The reaction mixture was heated to 135 C for 1 hour, then 145 C for 1 hour. After cooling to 70 C, the mixture was poured into 100 ml water. The slurry was cooled to 22 C, filtered and the solid was washed with water. The solid was added to 50 ml ethanol and basified with aqueous ammonium hydroxide. After cooling to 5 C, the solid was filtered and washed with water. The solid was dissolved in 14 ml hot ethanol and 7 ml water was added and the solution was cooled to 5 C. Following filtration, the white solid was washed with 50% ethanol and dried, leaving 1.1 g.

reactant | 2-aminothiophenol | 3.13 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | malonic acid | 1.3 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | water | 100 ml | O | H2O
product | 2,2′-Methylenebis(1,3-benzothiazole) | C(C=1SC2=C(N1)C=CC=C2)C=2SC1=C(N2)C=CC=C1 | C15H10N2S2
